US04776929
108.0 g of tetramethylammonium monomethylcarbonate and 72.0 g of water were introduced in the same reactor as used in Preparation Example 1 and heated with stirring. After the temperature in the reactor reached 100° C., the reaction was continued for 3 hours at 100° C. Tetramethylammonium hydrogencarbonate was obtained in a yield of 96.7 mol %.

reactant | tetramethylammonium monomethylcarbonate | 108.0 g | COC([O-])=O.C[N+](C)(C)C
solvent | water | 72.0 g | O | H2O
product | Tetramethylammonium hydrogencarbonate | C(O)([O-])=O.C[N+](C)(C)C | InChI=1S/C4H12N.CH2O3/c1-5(2,3)4;2-1(3)4/h1-4H3;(H2,2,3,4)/q+1;/p-1
